US06506901B2
4-[(2S)-Oxiranylmethoxy]-2-methylindole
Prepared from 2-methyl-4-hydroxyindole (5 g, 33 mmol), (S)-glycidyl nosylate (8.78 g, 33 mmol) and potassium carbonate (4.56 g, 33 mmol) according to the procedure used for Intermediate 1 to give 3.4 g product as a white solid.

reactant | 2-methyl-4-hydroxyindole | 33 mmol, 5 g | CC=1NC2=CC=CC(=C2C1)O | C9H9NO
reactant | (S)-glycidyl nosylate | 33 mmol, 8.78 g | S(=O)(=O)(OC[C@@H]1CO1)C1=CC=C([N+](=O)[O-])C=C1 | C9H9NO6S
reactant | potassium carbonate | 33 mmol, 4.56 g | C([O-])([O-])=O.[K+].[K+]
product | 4-[(2S)-Oxiranylmethoxy]-2-methylindole | 3.4 g | O1[C@@H](C1)COC1=C2C=C(NC2=CC=C1)C | C12H13NO2
